US06436923B1
A. 2-Cyclohexyl-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline
The title compound was prepared as described in Example 14.C, using 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline (0.5 g, 1.39 mmol) and cyclohexanone (0.588 g. 6.0 mmol) to provide the title compound (0.324 g, 53% yield): ES-MS (m/z) 442 [M+H]+.

reactant | 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 1.39 mmol, 0.5 g | COC=1C=C2CCNC(C2=CC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H25NO2
reactant | cyclohexanone | 6.0 mmol, 0.588 g | C1(CCCCC1)=O | C6H10O
product | 2-Cyclohexyl-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 0.324 g, 53% yield | C1(CCCCC1)N1C(C2=CC=C(C=C2CC1)OC)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C30H35NO2
